US08114886B2
5-(Trifluoromethyl)pyridine-2-thiol
Thiourea (684 mg, 8.80 mmol) was added to a solution of 2-chloro-5-(trifluoromethyl)pyridine (1.45 g, 8.00 mmol) in ethanol (4 ml), and the resulting mixture was heated to reflux for 2 hours. The reaction mixture was cooled to room temperature, subsequently a solution of potassium hydroxide (792 mg, 12.0 mmol) in water (4 ml) was added thereto, and the resulting mixture was heated to reflux for 2 hours. The reaction mixture was cooled again to room temperature, and 1 N sodium hydroxide and methylene chloride were added thereto. After the aqueous layer was separated, acetic acid added to the aqueous layer, which was then extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate and filtered, and then the filtrate was concentrated under reduced pressure. The obtained residue was washed with a mixed solvent of to hexane and diethyl ether, and was collected by filtration to obtain the title compound (860 mg, 4.80 mmol, 60%) as a pale yellow solid.

reactant | Thiourea | 8.80 mmol, 684 mg | NC(=S)N | CH4N2S
reactant | 2-chloro-5-(trifluoromethyl)pyridine | 8.00 mmol, 1.45 g | ClC1=NC=C(C=C1)C(F)(F)F | C6H3ClF3N
reactant | potassium hydroxide | 12.0 mmol, 792 mg | [OH-].[K+]
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-(Trifluoromethyl)pyridine-2-thiol | 4.80 mmol, 860 mg, 60% | FC(C=1C=CC(=NC1)S)(F)F | C6H4F3NS
